US04499269
2-Acetylamino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole
2-Amino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole (0.3 g) and acetic anhydride (0.14 g) in dry pyridine (15 mls) were heated at 100° for 24 hours. After cooling to room temperature, methanol (5 mls) was added, the solution was stirred for 1 hour and the solvents were removed in vacuo. The residue was dissolved in chloroform, the solution washed with water, brine, dried (Na2SO4) and evaporated in vacuo to give a yellow solid (0.27 g). Purification by chromatography (silica gel, chloroform) gave the title compound as pale yellow crystals (0.18 g), mp 248°-29°.

reactant | 2-Amino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole | 0.3 g | NC=1N=C2SC3=C(N2C(N1)=NC1=CC=CC=C1)C=CC(=C3)OC | C16H13N5OS
reactant | acetic anhydride | 0.14 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 5 mls | CO | CH4O
solvent | pyridine | 15 mls | N1=CC=CC=C1 | C5H5N
product | 2-Acetylamino-8-methoxy-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole | 0.27 g | C(C)(=O)NC=1N=C2SC3=C(N2C(N1)=NC1=CC=CC=C1)C=CC(=C3)OC | C18H15N5O2S
